US04256897
L-Aspartic acid (19.95 g, 0.150 mol) was suspended in 15 ml of water at 0° C., and 50% sodium hydroxide solution (24 g, 0.30 mol) was added dropwise with stirring. Methyl ethyl xanthate (22.44 g, 0.165 mol) in 15 ml of methanol was then added in one portion. The mixture was heated at 45° C. for 2 hours, cooled to room temperature, and washed with two portions of ethylene dichloride. The ethylene dichloride washes were discarded and the aqueous phase acidified with concentrated hydrochloric acid at 0° C. The solution was saturated with solid sodium chloride and extracted with two portions of ethyl acetate. The organic extracts were dried over anhydrous magnesium sulfate and evaporated in vacuo to afford 29.4 g (89%) of white crystalline N-ethoxythiocarbonyl-L-aspartic acid. mp 133° C.; nmr (DMSO-d6) δ1.23 (t, 3H, J=7 Hz), 2.67 (d, 2H, J=6 Hz), 4.37 (q, 2H, J=7 Hz), 4.93 (dt, 1H, J=6 Hz, 8 Hz), 9.26 (d, 1H, J=8 Hz).

reactant | L-Aspartic acid | 0.150 mol, 19.95 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | sodium hydroxide | 0.30 mol, 24 g | [OH-].[Na+]
reactant | Methyl ethyl xanthate | 0.165 mol, 22.44 g | O(C(=S)SCC)C | C4H8OS2
reactant | methanol | 15 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | N-ethoxythiocarbonyl-L-aspartic acid | 29.4 g, 89% | C(C)OC(=S)N[C@@H](CC(=O)O)C(=O)O | C7H11NO5S
